US08957049B2
6-Bromo-2-chloroquinoline (200 mg, 0.8 mmol) and N-methylbenzylamine (2 mL) were heated at 120° C. for 16 hours. Extraction from 2M NaOH into DCM and drying on Na2SO4 gave the crude 2-aminoquinoline. This was converted, via Methods 3 and 5, to compound 204 (110 mg, 46%). [M−H]−=291.1 m/z. Activity: A

reactant | 6-Bromo-2-chloroquinoline | 0.8 mmol, 200 mg | BrC=1C=C2C=CC(=NC2=CC1)Cl | C9H5BrClN
reactant | N-methylbenzylamine | 2 mL | CNCC1=CC=CC=C1 | C8H11N
product | 2-aminoquinoline | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
